US06297197B1
B. Methyl 4-Azido-6-bromo-3-methoxypyridine-2-carboxylate
Methyl 4,6-dibromo-3-methoxypyridine-2-carboxylate (0.980 g, 3.02 mmol) was dissolved in a minimum amount of DMF. Slowly sodium azide (0.216 g, 3.32 mmol) was added followed by H2O to form a homogeneous solution. The reaction mixture was heated to 60° C. and stirred for 2 days. Reaction mixture added to a flask filled with ice water and extracted with ethyl acetate (3×50 mL). Extracts were combined and back washed with H2O, dried (MgSO4) and concentrated to give 0.500 g of an orange oil. 1H NMR(CDCl3): δ 3.90 (s, 3H); 3.95 (s, 3H); 7.20 (s, 1H).

reactant | Methyl 4,6-dibromo-3-methoxypyridine-2-carboxylate | 3.02 mmol, 0.980 g | BrC1=C(C(=NC(=C1)Br)C(=O)OC)OC | C8H7Br2NO3
reactant | sodium azide | 3.32 mmol, 0.216 g | [N-]=[N+]=[N-].[Na+]
reactant | H2O | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 4-Azido-6-bromo-3-methoxypyridine-2-carboxylate | 0.500 g | N(=[N+]=[N-])C1=C(C(=NC(=C1)Br)C(=O)OC)OC | C8H7BrN4O3
